US06458780B1
A 1.59 N n-butyllithium/n-hexane solution (9.91 ml) was added dropwise in an argon atmosphere at −50° C. to a solution of 2.55 g of 7-methylthioimidazo[5,1-b]thiazole in 100 ml of THF. The mixture was stirred at the same temperature for 25 min. Trimethylsilyl chloride (2.08 ml) was added thereto, and the mixture was stirred for 30 min. The temperature of the system was raised to −30° C. A 1.59 N n-butyllithium/n-hexane solution (5.72 ml) was added dropwise thereto, and the mixture was stirred at the same temperature for 30 min. An aqueous ammonium chloride solution was added to the reaction solution. The mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2) to give 2.58 g of 7-methylthio-2-trimethylsilylimidazo[5,1-b]-thiazole.

reactant | n-butyllithium n-hexane | 1.59 N, 9.91 ml | C(CCC)[Li].CCCCCC
reactant | 7-methylthioimidazo[5,1-b]thiazole | 2.55 g | CSC=1N=CN2C1SC=C2 | C6H6N2S2
reactant | Trimethylsilyl chloride | 2.08 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | n-butyllithium n-hexane | 1.59 N, 5.72 ml | C(CCC)[Li].CCCCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 7-methylthio-2-trimethylsilylimidazo[5,1-b]-thiazole | 2.58 g | CSC=1N=CN2C1SC(=C2)[Si](C)(C)C | C9H14N2S2Si
